US07268230B2
Using an analogous procedure to that described for the preparation of Example 19, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline (150 mg, 0.36 mmol), (prepared as described for the starting material in Example 12), was reacted with isobutyryl chloride (45 μl, 0.43 mmol). The product was purified by column chromatography, eluting with methanol/methylene chloride (2/98) to give 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-{[(2S)-1-isobutyrylpyrrolidin-2-yl]methoxy}-6-methoxyquinazoline (95 mg, 54%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline | 0.36 mmol, 150 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1NCCC1)C | C23H23FN4O3
reactant | isobutyryl chloride | 0.43 mmol, 45 μl | C(C(C)C)(=O)Cl | C4H7ClO
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-{[(2S)-1-isobutyrylpyrrolidin-2-yl]methoxy}-6-methoxyquinazoline | 95 mg, 54% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1N(CCC1)C(C(C)C)=O)C | C27H29FN4O4
